US06833274B2
A few crystals of 2,6-di-tert-butyl-4-methylphenol (BHT), 4-Bromobenzaldehyde (2.00 g, 10.8 mmol), and tetrakis(triphenylphosphine) palladium(0) (250 mg, 2 mol %) are dissolved in toluene (20 mL). Tri-n-butyl-vinyl tin(IV) (3.47 mL, 3.77 g, 11.9 mmol) is added and the mixture is heated to reflux for 3 hr. After cooling to room temperature, the dark green/black reaction mixture is treated as follows: pyridine (4.4 mL) is added, then 9.3 mL of pyridinium hydrofluoride in tetrahydrofuran (˜1.2N, made by adding 0.88 g of pyridinium polyhydrofluoride into 20 mL dry THF containing 3.13 g of pyridine); the mixture is then stirred at room temperature overnight. The treated reaction mixture is diluted with diethyl ether (200 mL), washed with water (50 mL), 10% aqueous hydrochloric acid (2×50 mL), saturated aqueous NaHCO3 (50 mL), and then dried over MgSO4. Concentration in vacuo gives a crude oil, which is purified by flash chromatography (silica, 10% ethyl acetate/hexanes) to give pure 4-vinylbenzaldehyde as a pale yellow oil (1.16 g, 81.3%).

reactant | 2,6-di-tert-butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | 4-Bromobenzaldehyde | 10.8 mmol, 2.00 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | Tri-n-butyl-vinyl tin(IV) | 11.9 mmol, 3.47 mL, 3.77 g | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | pyridinium hydrofluoride | 9.3 mL | F.[NH+]1=CC=CC=C1
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | ˜1.2N, 20 mL, 0.88 g | O1CCCC1 | C4H8O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 250 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | pyridine | 4.4 mL | N1=CC=CC=C1 | C5H5N
product | 4-vinylbenzaldehyde | 1.16 g, 81.3% | C(=C)C1=CC=C(C=O)C=C1 | C9H8O
